US04071625
Substituting 5α-androstane-3β,17β,19-triol 3,17-diacetate for the 1β-methyl-5α-androstane-3β,17β,19-triol 3,17-diacetate above results in the preparation of 3β,17β-dihydroxy-5α-androstan-19-one.

reactant | 5α-androstane-3β,17β,19-triol 3,17-diacetate | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)OC(C)=O | C23H36O5
reactant | 1β-methyl-5α-androstane-3β,17β,19-triol 3,17-diacetate | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2([C@@H](C1)C)CO)OC(C)=O | C24H38O5
product | 3β,17β-dihydroxy-5α-androstan-19-one | O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C=O)O | C19H30O3
